US03966723
7. 2-cyanomethylidene-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine
1 g of 2-keto-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine is mixed with 1 ml of benzene, 0.5 ml of acetonitril and 0.5 g of molecular sieve (4 A). 50 mg of sodium-ethoxyde are added and the mixture is heated for 3 hours (90°-100°C). After cooling the mixture the molecular sieve is filtered off and the filtrate evaporated. The precipitate is recrystallized from ethanol.

reactant | 2-keto-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine | 1 g | O=C1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1 | C18H17NO
reactant | benzene | 1 ml | C1=CC=CC=C1 | C6H6
reactant | acetonitril | 0.5 ml | C(C)#N | C2H3N
product | 2-cyanomethylidene-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine | C(#N)C=C1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1 | C20H18N2
